US08008525B2
Methyl 4-([1,1′-biphenyl]-3-ylmethoxy)benzenepropanoate
Methyl 4-[(3-bromophenyl)methoxy]benzenepropanoate (0.60 g, 1.7 mmol), phenyl boronate (0.25 g, 2.1 mmol) and sodium carbonate (0.55 g, 5.2 mmol) were dissolved in toluene-methanol-water (5:1:1, 35 mL), the mixture was purged with argon, and then tetrakistriphenylphosphine palladium (99 mg, 0.086 mmol) was added thereto. The reaction solution was heated under reflux overnight under argon atmosphere. The reaction solution was cooled, and then water was added to the reaction solution, followed by extraction with ethyl acetate. The extract was washed with water, dried and then concentrated. The residue was purified with silica gel column chromatography (hexane/ethyl acetate=18:1) to give the title compound (0.55 g, yield 92%) as white powders.

reactant | Methyl 4-[(3-bromophenyl)methoxy]benzenepropanoate | 1.7 mmol, 0.60 g | BrC=1C=C(C=CC1)COC1=CC=C(C=C1)CCC(=O)OC | C17H17BrO3
reactant | phenyl boronate | 2.1 mmol, 0.25 g | B(OC1=CC=CC=C1)[O-]
reactant | sodium carbonate | 5.2 mmol, 0.55 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | O | H2O
solvent | toluene-methanol water | 35 mL | C=1(C(=CC=CC1)CO)C.O
product | Methyl 4-([1,1′-biphenyl]-3-ylmethoxy)benzenepropanoate | 0.55 g, yield 92% | C1(=CC(=CC=C1)COC1=CC=C(C=C1)CCC(=O)OC)C1=CC=CC=C1 | C23H22O3
